### PR TITLE
feat(LocallyNameless/Untyped): new theorem `lcAt_le`

### PR DESCRIPTION
**Pull request by lengyijun**
If a term is locally closed at level `i` and `i ≤ j`, then it is also locally closed at level `j`.

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean [hunk 1]
```diff
@@ -125,4 +125,8 @@ lemma lcAt_openRec_above_lcAt (M N : Term Var) (i j : ℕ) (h : i ≤ j) (lc : L
     M⟦j ↝ N⟧ = M := by
   induction M generalizing i j <;> grind
 
+lemma lcAt_le (M : Term Var) (i j : ℕ) (h : i ≤ j) (lc : LcAt i M) :
+    LcAt j M := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean]: This fits on one line:
```suggestion
lemma lcAt_le (M : Term Var) (i j : ℕ) (h : i ≤ j) (lc : LcAt i M) : LcAt j M := by
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]

**Review by chenson2018 — APPROVED** [review]
Thanks!
